US06716851B2
4-(2-Ethylsulfonyl-5-hydroxyanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine (40 mg, 0.154 mmol) and 2-ethylsulfonyl-5-hydroxyaniline (46 mg, 0.231 mmol) similar to Example 180. The reaction mixture was evaporated under vacuum to give a residue. The residue was precipitated using acetone to give the product as a yellow solid (30 mg, 46%). 1H NMR (DMSO-d6): 9.45 (s, 1H), 8.71 (m, 3H), 7.84 (brs, 1H), 7.0 (brd, 1H), 6.08 (brd, 1H), 3.0 (q, 2H), 1.0 (t, 3H).

reactant | 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | 0.154 mmol, 40 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 2-ethylsulfonyl-5-hydroxyaniline | 0.231 mmol, 46 mg | C(C)S(=O)(=O)C1=C(N)C=C(C=C1)O | C8H11NO3S
product | 4-(2-Ethylsulfonyl-5-hydroxyanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | C(C)S(=O)(=O)C1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C=C(C=C1)O | C17H14F3N5O3S
